US09382188B2
D) 6-methoxy-5-neopentylpyridin-3-ol
Under an argon atmosphere, to a solution of 5-bromo-2-methoxy-3-neopentylpyridine (4.38 g) in THF (40 mL) was added a 1.6 M solution of n-butyllithium in hexane (12.7 mL) at −78° C., and the mixture was stirred for 5 min. Trimethoxyborane (2.31 mL) was added at −78° C., and the mixture was stirred at room temperature for 14 hr. 8N Aqueous sodium hydroxide solution (2.54 mL) and 38% aqueous hydrogen peroxide (5.20 mL) were added to the reaction mixture at 0° C., and the mixture was stirred at room temperature for 5 hr. To the reaction mixture was added saturated aqueous sodium thiosulfate solution at 0° C., and the mixture was neutralized with 2N hydrochloric acid (23.4 mL). The reaction mixture was extracted with ethyl acetate, and the extract was washed with water and saturated brine, and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure and the residue was purified by silica gel column chromatography (ethyl acetate/hexane) to give the title compound (2.56 g) as a white solid.

reactant | 5-bromo-2-methoxy-3-neopentylpyridine | 4.38 g | BrC=1C=C(C(=NC1)OC)CC(C)(C)C | C11H16BrNO
reactant | n-butyllithium | C(CCC)[Li]
reactant | Trimethoxyborane | 2.31 mL | COB(OC)OC | C3H9BO3
reactant | sodium hydroxide | 8N, 2.54 mL | [OH-].[Na+]
reactant | hydrogen peroxide | 5.20 mL | OO | H2O2
reactant | sodium thiosulfate | S(=S)(=O)([O-])[O-].[Na+].[Na+]
reactant | hydrochloric acid | 2N, 23.4 mL | Cl | ClH
solvent | THF | 40 mL | C1CCOC1 | C4H8O
solvent | hexane | 12.7 mL | CCCCCC | C6H14
product | 6-methoxy-5-neopentylpyridin-3-ol | 2.56 g | COC1=C(C=C(C=N1)O)CC(C)(C)C | C11H17NO2
